US05608110
A. Preparation of 1-(3-Phthalimido-2-hydroxy propyl)-2-nitroimidazole
To a solution of N-(2,3-epoxypropyl)phthalimide (commercially available, 20.3 g, 0.1 mol) in ethanol (200 mL), 2-nitroimidazole (11.3 g, 0.1 mol) and potassium carbonate (1.2 g) were added and the reaction mixture was refluxed for 6 hrs. The reaction mixture was cooled and poured into water (700 ml) and the yellow solid formed was filtered and dried. Yield 28.2 g (89%). It was recrystallized from methanol. mp. 213°-214° C.

reactant | N-(2,3-epoxypropyl)phthalimide | O1C(CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
reactant | 2-nitroimidazole | 0.1 mol, 11.3 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 700 ml | O | H2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1-(3-Phthalimido-2-hydroxy propyl)-2-nitroimidazole | C1(C=2C(C(N1CC(CN1C(=NC=C1)[N+](=O)[O-])O)=O)=CC=CC2)=O | C14H12N4O5
